US07273865B2
To a stirred solution of 590 mg (2.66 mmol) 5-methoxy-2-(tetrahydro-pyran-4-yl)-pyridin-4-ylamine in 3 ml 65% aqueous sulfuric acid heated to 100° C. was added 728 mg (3.40 mmol) potassium iodate and stirring continued for 2 h at 100° C. The mixture was then cooled in an ice-bath before being made basic by addition of 5 N aqueous sodium hydroxide solution. The mixture was extracted three times with tetrahydrofuran and the combined organic phases were dried over sodium sulfate and concentrated in vacuo. Flash chromatography (ethyl acetate/hexane/triethylamine) afforded 516 mg (58%) 3-iodo-5-methoxy-2-(tetrahydro-pyran-4-yl)-pyridin-4-ylamine as a yellow crystalline solid. ES-MS m/e (%): 335 (M+H+, 100).

reactant | 5-methoxy-2-(tetrahydro-pyran-4-yl)-pyridin-4-ylamine | 2.66 mmol, 590 mg | COC=1C(=CC(=NC1)C1CCOCC1)N | C11H16N2O2
reactant | potassium iodate | 3.40 mmol, 728 mg | I(=O)(=O)[O-].[K+]
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
solvent | sulfuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
product | 3-iodo-5-methoxy-2-(tetrahydro-pyran-4-yl)-pyridin-4-ylamine | 516 mg, 58% | IC=1C(=NC=C(C1N)OC)C1CCOCC1 | C11H15IN2O2
